US07615562B2
Step A: 8-Amino-5-aza-spiro[3,5]nonane-5-carboxylic acid tert-butyl ester
A of solution 8-Oxo-5-aza-spiro[3.5]nonane-5-carboxylic acid tert-butyl ester (Tetrahedron Letters 42, 4815 (2001)) (488 mg, 2.04 mmol) in 11 ml of MeOH was treated with ammonium acetate (1.5 g, 20.4 mmol) and sodium cyanoborohydride (100 mg, 1.6 mmol). This mixture was stirred at room temperature for 72 hours. Afterwards 0.8 ml 1N-HCl were added and stirring continued for 10 minutes. For extraction with EtOAc the solution was basified with 1N-NaOH. The crude was purified by chromatography on silicagel (DCM/MeOH/ammonia:9/1/0.1). Yield: 0.27 g (55%).

reactant | 8-Oxo-5-aza-spiro[3.5]nonane-5-carboxylic acid tert-butyl ester | 2.04 mmol, 488 mg | C(C)(C)(C)OC(=O)N1C2(CCC2)CC(CC1)=O | C13H21NO3
reactant | ammonium acetate | 20.4 mmol, 1.5 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 1.6 mmol, 100 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 11 ml | CO | CH4O
product | 8-Amino-5-aza-spiro[3,5]nonane-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2(CCC2)CC(CC1)N | C13H24N2O2
